US05789595
The suspension (60 ml) in methanol of 1.58 g of 2-(2-(isopropyloxycarbonyl)ethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline and 1.0 g of palladium-carbon (10%) was stirred for one day, and the catalyst was separated by filtration. The filtrate was concentrated under reduced pressure to obtain 1.11 g of 7-amino-2-(isopropyloxycarbonyl)ethyl)-1,2,3,4-tetrahydroisoquinoline (yield: 78%).

reactant | 2-(2-(isopropyloxycarbonyl)ethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 1.58 g | C(C)(C)OC(=O)CCN1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C15H20N2O4
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
product | 1,2,3,4-tetrahydroisoquinoline | yield: 78% | C1NCCC2=CC=CC=C12 | C9H11N
